US04839355
It is further contemplated that (S)-8-(benzylthio)-10-(2,6-dimethyl-4-pyridinyl)-9-fluoro-3-methyl-7-oxo-2,3-dihydro-7H-pyrido[1,2,3-de][1,4]benzoxazine-6-carboxylic acid can be treated with Raney nickel in ethanol to give (S)-10-(2,6-dimethyl-4-pyridinyl)-9-fluoro-3-methyl-7-oxo-2,3-dihydro-7H-pyrido[1,2,3-de][1,4]benzoxazine-6-carboxylic acid, the compound of Example 3(c).

reactant | (S)-8-(benzylthio)-10-(2,6-dimethyl-4-pyridinyl)-9-fluoro-3-methyl-7-oxo-2,3-dihydro-7H-pyrido[1,2,3-de][1,4]benzoxazine-6-carboxylic acid | C(C1=CC=CC=C1)SC1=C(C(=C2C=3N([C@H](CO2)C)C=C(C(C13)=O)C(=O)O)C1=CC(=NC(=C1)C)C)F | C27H23FN2O4S
catalyst | Raney nickel | [Ni] | Ni
solvent | ethanol | C(C)O | C2H6O
product | (S)-10-(2,6-dimethyl-4-pyridinyl)-9-fluoro-3-methyl-7-oxo-2,3-dihydro-7H-pyrido[1,2,3-de][1,4]benzoxazine-6-carboxylic acid | CC1=NC(=CC(=C1)C=1C(=CC2=C3N([C@H](COC31)C)C=C(C2=O)C(=O)O)F)C | C20H17FN2O4
